Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Increased intolerance to food with nausea and vomiting, and 
episode of hematochezia.
 
Major Surgical or Invasive Procedure:
1. Exploratory laparotomy.
2. Extensive lysis of adhesions taking over 2 hours.
3. Thrombectomy of the superior mesenteric artery bypass.
4. Left greater saphenous vein patch of superior mesenteric 
artery bypass.
5. Abdominal exploration, washout, and
closure.

 
History of Present Illness:
   The patient is a ___ woman with an extensive history 
of mesenteric ischemia including multiple interventions of both 
endovascular and open,
including inferior mesenteric artery stent, SMA stent, and 
finally an antegrade aortic to left hepatic and SMA bypass which 
was done back in ___ by Dr. ___.  The patient then 
presented with a 2-week history of increasing intolerance to 
food and nausea with limited vomiting.  She
finally had an episode of hematochezia leading to a CTA that 
confirmed that her SMA bypass was down.  The patient is being 
taken for exploration and revascularization.

 
Past Medical History:
PMH: MI early 1990s, s/p cardiac cath, no intervention
PSH: ___ stenting ___, ___ stenting ___, Ex-lap and SBR
___, take back for bleeding ___, SMA stenting 
___, antegrade aortic to left hepatic and SMA bypass
hysterectomy ___.

 
Social History:
___
Family History:
Brother and mother with DM. 
 
Physical Exam:
Physical Exam:
Alert and oriented x 3 
VS:BP 100/58, HR 77, RR 14
Carotids: 2+, no bruits or JVD
Resp: Lungs clear
Abd: Soft, non tender
Ext: Pulses:          Left  Femoral palp, DP palp, ___ palp
                      Right Femoral palp, DP palp, ___ palp
Feet warm,  well perfused.  No open areas
Incisions:
     Abdomen incision:Staples in place with area of separation 
1cmx 1.5cm at the area of the umbilicus. This area is packed 
with a 4x4 gauze. This area is draining serous fluid without 
evidence of odor, purulence or fowl odor. 
     Right Lower extremity incision: Soft,Clean dry and intact 
with staples in place with receeding erythema, without evidence 
of hematoma or ecchymosis.

 
Pertinent Results:
___ 07:11AM BLOOD WBC-11.3*# RBC-3.62* Hgb-11.2* Hct-33.4* 
MCV-92 MCH-30.8 MCHC-33.4 RDW-15.0 Plt ___
___ 07:11AM BLOOD Plt ___
___ 07:11AM BLOOD Glucose-112* UreaN-12 Creat-0.5 Na-134 
K-4.0 Cl-98 HCO3-26 AnGap-14
___ 07:11AM BLOOD Calcium-8.1* Phos-3.2 Mg-1.9
___ 10:47 am SWAB      Source: lower abdomen. 
    GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN 
CLUSTERS. 

   WOUND CULTURE (Preliminary): 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
      BETA STREPTOCOCCUS GROUP B.    SPARSE GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

 
Brief Hospital Course:
The patient initially presented to the ER with compliant of 
abdominal pain N/V and bright red blood per rectum on ___, CTA 
showed a thrombosed superior mesenteric artery bypass and 
mesenteric ischemia.  She was brought to the operating room on 
___ and underwent an exploratory laparotomy, extensive 
lysis, thrombectomy of the ___ bypass, a left GSV patch of the 
SMA bypass. Secondary to dusky looking bowel ACS was consulted 
intra-operatively. It was determined that no bowel resection was 
necessary, and the patient was left open. ___ she 
spent the night in the intensive care unit as she was left open 
to have a ___ look of her bowel and to evacuate any possible 
hematoma that might have developed as she was kept on heparin. 
On ___, she was brought back to the operating room from the 
ICU for a planned washout, exploration and abdomen and closure. 
The patient was closely in the ICU until POD#3 she was 
transferred to the VICU after passing a speech and swallow exam. 
On POD#5 the patient had some evidence of bloody loose stools 
which prompted a CT scan of the abdomen, and evaluation of her 
HCT. On ___ the patient was given 3 units of PRBCs for a 
down trending HCT from 25 to 21. The patients HCT appropriately 
responded to 32 and remained hemodynamically stable. She was 
started on Coumadin on ___ for the treatment/prevention of 
arterial thrombus. On ___ the patient was placed on 
vancomycin for erythema of her incision sites with dehiscence 
(2cm) of her abdominal incision.  The patient Vancomycin was 
stopped at the time of discharge on ___ and was given a 
prescription for a 5 day course of  Bactrim DS.  The patient was 
seen and cleared by ___ to be discharged to home. ___ was set-up 
to assist the patient with wound care and to draw INRs. Dr. ___ 
will manage the patient's INR and Coumadin as an outpatient. The 
patient was discharged on POD#12 with a therapeutic INR and 
scheduled to follow up with Dr. ___ on ___ at 12:45 for 
continued management of the patient's anticoagulation plan. The 
patient will f/u with Dr. ___ on ___ for reassess her 
wounds.   

  

 
Medications on Admission:
Simvastation 20mg', Aspirin 81mg'
 
Discharge Medications:
1. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth Twice daily Disp #*10 Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Warfarin 1 mg PO AS DIRECTED BY ___. ___: 1 Dose 
RX *warfarin [Coumadin] 1 mg ___ tablet(s) by mouth once daily 
Disp #*30 Tablet Refills:*0
4. Simvastatin 20 mg PO DAILY 
5. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze 
6. Hydrocodone-Acetaminophen (5mg-500mg) ___ TAB PO Q6H:PRN pain 

RX *hydrocodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
Every 6 hours as needed for pain Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Thrombosed of superior mesenteric artery bypass and mesenteric 
ischemia.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Superior Mesenteric Thrombectomy Discharge Instructions
 
WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•You may walk and you may go up and down stairs 
•Increase your activities as you can tolerate - do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
•     Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•     Avoid prolonged periods of standing or sitting without 
your legs elevated
*     Eat small frequent meals
•     To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing.

What activities you can and cannot do:
• Your abdominal incision has a small opening, this area should 
be packed with guaze and covered with dry sterile dressing. Be 
attentive to signs of infection to included increased redness, 
pain and oozing from the incision sites. 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow arm incision to heal)
• After 1 week, you may resume sexual activity
• Gradually increase your activities and distance walked as you 
can tolerate
• No driving until you are no longer taking pain medications

MEDICATION:
• Take Aspirin 81mg (enteric coated) once daily
• Take Coumadin per the instruction of your PCP ___. 
• Continue all other medications you were taking before surgery. 

• You make take Tylenol or prescribed pain medications for any 
___ procedure pain or discomfort.

 
Followup Instructions:
___